US04025511
A mixture of 18 g. of N-(2-acetoxyethyl)isatoic anhydride, 8.5 g. of 2-methylmercapto-imidazoline and 2 pellets of potassium hydroxide in 300 ml. of dioxane is heated at reflux for 5 hours, the solvent then evaporated off and water added. The resulting precipitate is recovered by filtering and washed twice with water. The precipitate is dissolved in methylene chloride and extracted 3times with 1N. hydrochloric solution. The combined hydrochloric acid solutions and filtered through celite, sodium carbonate solution is added and the resulting precipitate is recovered by filtering, washed with water, air dried, dissolved in methylene chloride, dried, filtered and the methylene chloride exchanged for diethyl ether. The resulting precipitate is recovered by filtering, washed with cold diethyl ether and dried under reduced pressure at 40° C. to obtain 10-(2'-acetoxyethyl)-2,3-dihydro-imidazo[2,1-b] quinazolin-5(10H)-one, m.p. 124°-126° C.

reactant | N-(2-acetoxyethyl)isatoic anhydride | C(C)(=O)OCCN1C=2C(C(=O)OC1=O)=CC=CC2 | C12H11NO5
reactant | 2-methylmercapto-imidazoline | CSC=1NCCN1 | C4H8N2S
reactant | potassium hydroxide | [OH-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 10-(2'-acetoxyethyl)-2,3-dihydro-imidazo[2,1-b] quinazolin-5(10H)-one | C(C)(=O)OCCN1C=2N(C(C3=CC=CC=C13)=O)CCN2 | C14H15N3O3
